US05070087
1-(Phenylsulfonyl)-4-piperidinecarboxylic acid ethyl ester
In another preparation, 100 g (0.634 mole) of ethyl isonipecotate and 130.4 g (0.74 mole) of benzenesulfonyl chloride were reacted by the above procedure for 4.5 hr to give the title product in 78% yield.

reactant | ethyl isonipecotate | 0.634 mole, 100 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | benzenesulfonyl chloride | 0.74 mole, 130.4 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 1-(Phenylsulfonyl)-4-piperidinecarboxylic acid ethyl ester | 78% yield | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C14H19NO4S
